US09062044B2
Step B: (1S,6R)-3,8-Diazabicyclo[4.2.0]octan-8-yl(2-fluoro-6-(2H-1,2,3-triazol-2-yl)phenyl)methanone.
To (1S,6R)-tert-butyl 8-(2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoyl)-3,8-diazabicyclo[4.2.0]octane-3-carboxylate (400 mg, 1.0 mmol) in CH2Cl2 (5 mL) was added TFA (5 mL). After the reaction was judged complete, the volatiles were removed under reduced pressure. The resulting residue was neutralized using 5% Na2CO3(aq) followed by extraction with CH2Cl2 (3×). The combined organics were dried (Na2SO4) and concentrated to give the title compound as an oil that was used without further purification.

reactant | (1S,6R)-tert-butyl 8-(2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoyl)-3,8-diazabicyclo[4.2.0]octane-3-carboxylate | 1.0 mmol, 400 mg | FC1=C(C(=O)N2C[C@H]3CCN(C[C@@H]23)C(=O)OC(C)(C)C)C(=CC=C1)N1N=CC=N1 | C20H24FN5O3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (1S,6R)-3,8-Diazabicyclo[4.2.0]octan-8-yl(2-fluoro-6-(2H-1,2,3-triazol-2-yl)phenyl)methanone | [C@H]12CNCC[C@@H]2CN1C(=O)C1=C(C=CC=C1N1N=CC=N1)F | C15H16FN5O
